US08685980B2
To a suspension of 7-cyclopentyl-2-(1′,2′,3′,4′,5′,6′-hexahydro-[3,4′]bipyridinyl-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.23 mmol) in dichloromethane/acetone is added NaBH(OAc)3 (488 mg, 2.3 mmol) followed by 3 drops of glacial acetic acid. After reaction is completed and concentrated. Diluted with 100 mL of H2O and basified to pH12 with 50% NaOH solution dropwise (2 mL). Extracted with dichloromethane (3×100 mL), and concentrated to give 7-cyclopentyl-2-[6-(4-isopropyl-piperazin-1-yl)-pyridazin-3-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (77 mg, 70%). MS (ESI) m/z 478.3 (M+H)+

reactant | 7-cyclopentyl-2-(1′,2′,3′,4′,5′,6′-hexahydro-[3,4′]bipyridinyl-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.23 mmol, 100 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=CC=C(C=N2)C2CCNCC2)N1C1CCCC1)C | C24H31N7O
reactant | NaBH(OAc)3 | 2.3 mmol, 488 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | dichloromethane acetone | ClCCl.CC(=O)C
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | 7-cyclopentyl-2-[6-(4-isopropyl-piperazin-1-yl)-pyridazin-3-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 77 mg, 70% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC=2N=NC(=CC2)N2CCN(CC2)C(C)C)N1C1CCCC1)C | C25H35N9O
